US04374248
A. 3-{2-[(5-Methyl-1H-imidazol-4-yl)methylthio]ethylamino}-4-methoxy-1,2,5-thiadiazole 1,1-dioxide
To a well stirred suspension of 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide (2.0 g; 11.2 mmoles) [prepared according to the procedure described in J. Org. Chem., 40, 2743 (1975)] in 200 ml of methanol at ambient temperature was added a solution of 2-[(5-methyl-1H-imidazol-4-yl)methylthio]ethylamine (from the dihydrochloride, 2.73 g; 11.2 mmoles) [prepared according to Belgian Pat. No. 779,775] in 25 ml of methanol. After stirring for 30 minutes, a methanolic solution of the title compound was produced. The TLC (Silica/CH2Cl2 :CH3OH (90:10)] gave Rf=0.44.

reactant | 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide | 11.2 mmoles, 2.0 g | COC1=NS(N=C1OC)(=O)=O | C4H6N2O4S
reactant | 2-[(5-methyl-1H-imidazol-4-yl)methylthio]ethylamine | CC1=C(N=CN1)CSCCN | C7H13N3S
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
product | 3-{2-[(5-Methyl-1H-imidazol-4-yl)methylthio]ethylamino}-4-methoxy-1,2,5-thiadiazole 1,1-dioxide | CC1=C(N=CN1)CSCCNC1=NS(N=C1OC)(=O)=O | C10H15N5O3S2
